US08242116B2
1-[2-(Pyrrolidin-1-yl)ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 1-(2-chloroethyl)pyrrolidine hydrochloride according to Method AC (heating to 90° C. for 6 days before addition of further 1-(2-chloroethyl)pyrrolidine hydrochloride, and heating to 90° C. for a further 3 days) and was isolated as a brown gum (45%). LCMS (ES+) 292 (M+H)+, RT 1.81 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
product | 1-[2-(Pyrrolidin-1-yl)ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | N1(CCCC1)CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
